US07906532B2
Step 1. Methyl 1-cyclobutyl-1H-indazole-3-carboxylate
To a suspension of sodium hydride (60% in mineral, 817 mg, 20.4 mmol) in N,N-dimethylformamide (30 mL) was added a solution of methyl 1H-indazole-3-carboxylate in N,N-dimethylformamide (20 mL) at room temperature. After stirring for 30 min, bromocyclobutane (3.45 g, 25.5 mmol) was added, and the mixture was stirred at 90° C. for 13 h. After cooling to room temperature, the mixture was poured onto saturated aqueous sodium hydrogencarbonate solution (200 mL), and the aqueous layer was extracted with ethyl acetate/toluene (3:1, 200 mL×2). The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a column of silica gel eluting with ethyl acetate/n-hexane (1:6 then 1:5) to give 2.21 g (56%) of the title compound as a colorless oil.

reactant | sodium hydride | 20.4 mmol, 817 mg | [H-].[Na+]
reactant | methyl 1H-indazole-3-carboxylate | N1N=C(C2=CC=CC=C12)C(=O)OC | C9H8N2O2
reactant | bromocyclobutane | 25.5 mmol, 3.45 g | BrC1CCC1 | C4H7Br
reactant | sodium hydrogencarbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl 1-cyclobutyl-1H-indazole-3-carboxylate | 2.21 g, 56% | C1(CCC1)N1N=C(C2=CC=CC=C12)C(=O)OC | C13H14N2O2
